US08349865B2
Step 1: 2,6-Dichloro-4-(2-methyl-1,3-dioxolan-2-yl)aniline
1-(4-Amino-3,5-dichlorophenyl)ethanone (15 g, 73.5 mmol), pyridinium p-toluene sulfonic acid (5.5 g, 22 mmol), and ethylene glycol (6.2 mL, 110 mmol) were heated together in benzene (250 mL) with a Dean Stark trap at 100° C. overnight. The benzene was distilled off until ˜75 mL remained and the reaction mixture was extracted with EtOAc and saturated NaHCO3. The organic layer was separated, dried with MgSO4, filtered, and concentrated under rotary evaporation to afford a oily residue. The crude mixture was purified on silica gel chromatography (100% Hex to 100% EtOAc) to afford the desired product.

reactant | 1-(4-Amino-3,5-dichlorophenyl)ethanone | 73.5 mmol, 15 g | NC1=C(C=C(C=C1Cl)C(C)=O)Cl | C8H7Cl2NO
reactant | pyridinium p-toluene sulfonic acid | 22 mmol, 5.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | ethylene glycol | 110 mmol, 6.2 mL | C(CO)O | C2H6O2
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | 2,6-Dichloro-4-(2-methyl-1,3-dioxolan-2-yl)aniline | ClC1=C(N)C(=CC(=C1)C1(OCCO1)C)Cl | C10H11Cl2NO2
